US04472433
A mixture of ethyl 2-[2-amino-3-(2,3-dichlorophenoxy)phenyl]acetate (3.7 g.), sodium hydroxide (880 mg.) and water (50 ml.) was treated in a similar manner to that of Example 5-(2). The resultant residue was pulverized with benzene, and the precipitates were collected by filtration and dried to give 2-[2-amino-3-(2,3-dichlorophenoxy)phenyl]acetic acid (2.65 g.).

reactant | ethyl 2-[2-amino-3-(2,3-dichlorophenoxy)phenyl]acetate | 3.7 g | NC1=C(C=CC=C1OC1=C(C(=CC=C1)Cl)Cl)CC(=O)OCC | C16H15Cl2NO3
reactant | sodium hydroxide | 880 mg | [OH-].[Na+]
reactant | water | 50 ml | O | H2O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 2-[2-amino-3-(2,3-dichlorophenoxy)phenyl]acetic acid | 2.65 g | NC1=C(C=CC=C1OC1=C(C(=CC=C1)Cl)Cl)CC(=O)O | C14H11Cl2NO3
